US06469176B1
Preparation of 2-Methyl-6-nitrobenzaldoxime (Process Step a)—Variant A)
A solution of 274 g (2.6 mol) of n-butyl nitrite (97% pure) and 300 g (2.0 mol) of 3-nitro-o-xylene (97% pure) in 750 ml of dimethylformamide is cooled to from −55 to −60° C., and a solution of 522 g (4.56 mol) of potassium tert-butoxide in 750 ml of dimethylformamide is added dropwise at this temperature, over a period of 2.5 hours. The color of the solution changes from yellow to deep red, and the consistency becomes viscous. The reaction is monitored by HPLC. For work-up, initially 300 ml of water are added, and subsequently approximately 300 ml of glacial acetic acid, until the pH is 5-6. During the addition, the temperature rises to −10° C., and a yellow suspension is formed. The reaction mixture is subsequently poured into 6 kg of ice-water, and the residue that has formed is filtered off with suction, washed with 5 l of water and dried in a drying cabinet at 30° C. overnight.

reactant | n-butyl nitrite | 2.6 mol, 274 g | N(=O)OCCCC | C4H9NO2
reactant | 3-nitro-o-xylene | 2.0 mol, 300 g | [N+](=O)([O-])C1=C(C(=CC=C1)C)C | C8H9NO2
reactant | potassium tert-butoxide | 4.56 mol, 522 g | CC(C)([O-])C.[K+]
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 750 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 750 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | approximately 300 ml | C(C)(=O)O | C2H4O2
product | 2-Methyl-6-nitrobenzaldoxime | CC1=C(C=NO)C(=CC=C1)[N+](=O)[O-] | C8H8N2O3
